US07196104B2
Preparation Y: 2-Amino-3-(1-piperidinylmethyl)-pyridine
2-(Phthalimidyl)-3-(1-piperidinylmethyl)-pyridine (196 mg, 0.609 mmol) was dissolved in EtOH (95%, 2 mL) at 23° C., and treated with hydrazine monohydrate (0.0320 mL, 0.670 mmol) in a dropwise fashion. The resulting mixture was warmed to reflux and stirred for 3 h at reflux. The solution was treated with additional hydrazine monohydrate (0.150 mL, 3.050 mmol), and reflux continued. After 14 h at reflux, the mixture was cooled to RT, and concentrated using a rotary evaporator to a white paste. The resulting white paste was dissolved in CHCl3: IpOH (3:1, 75 mL), and washed with saturated NaHCO3 (3×50 mL), and H2O (1×50 mL). The organic layer was dried over MgSO4 and concentrated in vacuo to provide the title compound as a white solid. MS m/z: 192 (M+H).

reactant | 2-(Phthalimidyl)-3-(1-piperidinylmethyl)-pyridine | 0.609 mmol, 196 mg | C1(C=2C(C(N1C1=NC=CC=C1CN1CCCCC1)=O)=CC=CC2)=O | C19H19N3O2
reactant | hydrazine monohydrate | 0.670 mmol, 0.0320 mL | O.NN
reactant | hydrazine monohydrate | 3.050 mmol, 0.150 mL | O.NN
solvent | EtOH | 2 mL | CCO | C2H6O
product | 2-Amino-3-(1-piperidinylmethyl)-pyridine | NC1=NC=CC=C1CN1CCCCC1 | C11H17N3
